US04690943
5-Chloro-1-acetyl-2-oxindole
A mixture of 7.0 g (42 mmole) of 5-chloro-2-oxindole and 5.9 ml (63 mmole) of acetic anhydride was heated under nitrogen at reflux for 3.5 hours. The cooled reaction mixture was diluted with 300 ml of ethyl acetate, and the resulting solution was washed with aqueous sodium bicarbonate followed by saturated, aqueous sodium chloride solution. The ethyl acetate solution was then dried (Na2SO4) and evaporated in vacuo to give 8.3 g of a purple solid. The latter solid was purified by chromatography on silica gel, eluting with 2.5% ethyl acetate in dichloromethane, to give 6.0 g of crude title compound as a yellow solid. The latter solid was recrystallized from ca. 50 ml of ethanol to give 4.7 g of the title compound as pale yellow needles, m.p. 129°-130° C.

reactant | 5-chloro-2-oxindole | 42 mmole, 7.0 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | acetic anhydride | 63 mmole, 5.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1-acetyl-2-oxindole | 8.3 g | ClC=1C=C2CC(N(C2=CC1)C(C)=O)=O | C10H8ClNO2
